US08530491B2
c) 2,4-diamino-6-ethyl-5-(3-(6-fluoroquinolin-4-yloxy)propoxy)pyrimidine dihydrochloride
To a suspension of 2,4-diamino-6-ethyl-5-(3-(6-fluoroquinolin-4-yloxy)propoxy)pyrimidine (10.02 g, 28 mmol) in methanol (40 mL) was added 5.3 mL of concentrated HCl. The titled compound precipitated almost immediately and was obtained as a white crystalline solid after suction filtration followed by washing with acetone and air-dried (11.81 g, 98%, m.p. 212-214° C.). 1H NMR (400 MHz, DMSO-d6): 1.05 (3H, t, J=7.4 Hz), 2.40 (2H, m), 2.48 (2H, m), 3.98 (2H, t, J=5.8 Hz), 4.68 (2H, t, J=5.5 Hz), 7.50 (bs, 2H), 7.60 (1H, d, J=6.5 Hz), 7.90 (1H, s), 8.04 (1H, dt, J=9.0, 2.6 Hz), 8.10 (1H, dd, J=8.9, 2.3 Hz), 8.33 (1H, s), 8.43 (1H, dd, J=9.3, 4.8 Hz), 9.17 (1H, d, J=6.4 Hz), 12.70 (1H, s).

reactant | 2,4-diamino-6-ethyl-5-(3-(6-fluoroquinolin-4-yloxy)propoxy)pyrimidine | 28 mmol, 10.02 g | NC1=NC(=C(C(=N1)N)OCCCOC1=CC=NC2=CC=C(C=C12)F)CC | C18H20FN5O2
reactant | HCl | 5.3 mL | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 2,4-diamino-6-ethyl-5-(3-(6-fluoroquinolin-4-yloxy)propoxy)pyrimidine dihydrochloride | Cl.Cl.NC1=NC(=C(C(=N1)N)OCCCOC1=CC=NC2=CC=C(C=C12)F)CC | InChI=1S/C18H20FN5O2.2ClH/c1-2-13-16(17(20)24-18(21)23-13)26-9-3-8-25-15-6-7-22-14-5-4-11(19)10-12(14)15;;/h4-7,10H,2-3,8-9H2,1H3,(H4,20,21,23,24);2*1H
